US05015678
Diethyl 2-(4-Benzoyloxy-2,2,6,6-tetramethylpiperidin-1-oxy)ethylphosphonate
To a suspension of 0.12 gram of potassium tert-butoxide in 25 ml of dry tetrahydrofuran is added 3.0 grams of 4-benzoyloxy-1-hydroxy-2,2,6,6-tetramethylpiperidine. After stirring the solution under nitrogen at room temperature for ten minutes, 1.78 grams of diethyl vinylphosphonate are added. After stirring the reaction mixture at room temperature under nitrogen for 24 hours, the solvent is removed under reduced pressure. The residue is partitioned between water and methylene chloride. The organic phase is washed with water, then brine and finally dried over anhydrous magnesium sulfate followed by evaportion. Purification of the residue by liquid chromatography affords the title compound as a colorless liquid. Analysis by nmr, ir and ms gives data consistent with the structure of the title compound.

reactant | potassium tert-butoxide | 0.12 gram | CC(C)([O-])C.[K+]
reactant | 4-benzoyloxy-1-hydroxy-2,2,6,6-tetramethylpiperidine | 3.0 grams | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C16H23NO3
reactant | diethyl vinylphosphonate | 1.78 grams | C(=C)P(OCC)(OCC)=O | C6H13O3P
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | Diethyl 2-(4-Benzoyloxy-2,2,6,6-tetramethylpiperidin-1-oxy)ethylphosphonate | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OCCP(OCC)(OCC)=O)(C)C | C22H36NO6P
